US07314877B2
4) Production of 2-cyclopropylmethyl-6-(2,3-dihydro-1-benzofuran-5-yl)-4-hydroxymethyl-2H-pyridazin-3-one
To a solution of 4-carboxy-2-cyclopropylmethyl-6-(2,3-dihydro-1-benzofuran-5-yl)-2H-pyridazin-3-one (1.8 g, 5.76 mmol) in THF (25 mL), triethylamine (641 mg, 6.34 mmol) was added, and a solution of chloroethyl carbonate (688 mg, 6.34 mmol) in THF (1 mL) was added dropwise to the resultant mixture under cooling with ice, followed by stirring for 30 minutes. The formed triethylamine hydrochloride was removed through filtration, and a solution of sodium borohydride (327 mg, 8.64 mmol) in water (2 mL) was added to the filtrate under cooling with ice, followed by stirring for 15 minutes at room temperature. Aqueous hydrochloric acid (2 mol/L) was added to the reaction mixture, and the resultant mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate anhydrate. The solvent was removed under reduced pressure, and the residue was subjected to a separation/purification step through silica gel column chromatography [silica gel 60 g, chloroform/methanol (100/1)], to thereby yield 566 mg of the title compound as pale yellow powder (32.9%).

reactant | 4-carboxy-2-cyclopropylmethyl-6-(2,3-dihydro-1-benzofuran-5-yl)-2H-pyridazin-3-one | 5.76 mmol, 1.8 g | C(=O)(O)C=1C(N(N=C(C1)C=1C=CC2=C(CCO2)C1)CC1CC1)=O | C17H16N2O4
reactant | triethylamine | 6.34 mmol, 641 mg | C(C)N(CC)CC | C6H15N
reactant | chloroethyl carbonate | 6.34 mmol, 688 mg | C(OCCCl)([O-])=O
reactant | sodium borohydride | 8.64 mmol, 327 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 2-cyclopropylmethyl-6-(2,3-dihydro-1-benzofuran-5-yl)-4-hydroxymethyl-2H-pyridazin-3-one | C1(CC1)CN1N=C(C=C(C1=O)CO)C=1C=CC2=C(CCO2)C1 | C17H18N2O3
